US07312225B2
1d) Production of 3-Amino-N-[5-(5-bromo-2-chloro-pyrimidin-4-ylamino)-pentyl]-benzenesulfonamide
A solution of 300 mg (0.63 mmol) of N-[5-(5-bromo-2-chloro-pyrimidin-4-ylamino)-pentyl]-3-nitro-benzenesulfonamide in 6 ml of ethanol is mixed with 600 mg of tin(II) chloride and stirred for 30 minutes at 70° C. After cooling, the reaction mixture is carefully added to ice water and made basic with saturated NaHCO3 solution. It is extracted with ethyl acetate (3×). The combined organic phases are dried (Na2SO4), filtered, and concentrated by evaporation. The remaining residue is purified by chromatography (ethyl acetate/hexane 4:1). 112 mg (0.25 mmol, corresponding to 40% of theory) of the product is obtained.

reactant | N-[5-(5-bromo-2-chloro-pyrimidin-4-ylamino)-pentyl]-3-nitro-benzenesulfonamide | 0.63 mmol, 300 mg | BrC=1C(=NC(=NC1)Cl)NCCCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C15H17BrClN5O4S
reactant | tin(II) chloride | 600 mg | [Sn](Cl)Cl
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 3-Amino-N-[5-(5-bromo-2-chloro-pyrimidin-4-ylamino)-pentyl]-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)NCCCCCNC1=NC(=NC=C1Br)Cl | C15H19BrClN5O2S
